US05578624
N-[2-[4-(1-Benzoyl-6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]-phthalimide hydrochloride
A mixture of 2-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]-1H-isoindol-1,3-(2H)-dione (6.0 g, 15 mmol) and benzoyl chloride (25 ml) was stirred at 175° C. under N2 for 2.0 hours. The reaction was cooled and diluted with anhydrous Et2O and the resultant hydrochloride salt was collected to yield 7.2 g. The compound was stirred in boiling absolute ethanol (300 ml) for 1 hour and then at ambient temperature overnight. The solid was collected and dried to afford 6.9 g. Recrystallization from MeOH gave 3.9 g of a light grey solid, m.p. 257°-260° C.

reactant | 2-[2-[4-(6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]-1H-isoindol-1,3-(2H)-dione | 15 mmol, 6.0 g | FC1=CC=C2C(=NNC2=C1)N1CCN(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C21H20FN5O2
reactant | benzoyl chloride | 25 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethanol | 300 ml | C(C)O | C2H6O
solvent | Et2O | CCOCC | C4H10O
product | N-[2-[4-(1-Benzoyl-6-fluoro-1H-indazol-3-yl)-1-piperazinyl]ethyl]-phthalimide hydrochloride | 3.9 g | Cl.C(C1=CC=CC=C1)(=O)N1N=C(C2=CC=C(C=C12)F)N1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C28H24FN5O3.ClH/c29-20-10-11-23-24(18-20)34(26(35)19-6-2-1-3-7-19)30-25(23)32-15-12-31(13-16-32)14-17-33-27(36)21-8-4-5-9-22(21)28(33)37;/h1-11,18H,12-17H2;1H
